US09102671B2
To a solution of tert-butyl (2R)-2-(tert-butyldimethylsilyloxy)-4-(3-fluorophenyl)-4-hydroxybutylcarbamate (I-2) (15.8 g, 38.2 mmol) in DCM (120 mL) at −60° C. under N2 was added TEA (16 mL, 114.6 mmol) and MsCl (3.3 mL, 42.0 mmol). The resulting mixture was stirred at −60° C. for 1 hour. The reaction was poured into water, washed with brine, dried over sodium sulfate, filtered and concentrated to yield (4R)-tert-butyl 4-(tert-butyldimethylsilyloxy)-2-(3-fluorophenyl)pyrrolidine-1-carboxylate (I-3). MS m/z 418.1 (M+23)+.

reactant | tert-butyl (2R)-2-(tert-butyldimethylsilyloxy)-4-(3-fluorophenyl)-4-hydroxybutylcarbamate | 38.2 mmol, 15.8 g | [Si](C)(C)(C(C)(C)C)O[C@@H](CNC(OC(C)(C)C)=O)CC(O)C1=CC(=CC=C1)F | C21H36FNO4Si
reactant | MsCl | 42.0 mmol, 3.3 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | DCM | 120 mL | C(Cl)Cl | CH2Cl2
product | (4R)-tert-butyl 4-(tert-butyldimethylsilyloxy)-2-(3-fluorophenyl)pyrrolidine-1-carboxylate | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC(N(C1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)F | C21H34FNO3Si
